US04666938
3,5-Dichloro-4-methoxymethylaniline (2.06 g) and N,N-diethylaniline (1.49 g) were dissolved in toluene (15 ml). To the resultant solution was dropwise added isopropyl chloroformate (1.24 g) in 5 minutes under ice-cooling. The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-(3,5-dichloro-4-methoxymethylphenyl)carbamate (Compound No. 1) (2.62 g) in a yield of 89.6% nD26.2 1.5283.

reactant | 3,5-Dichloro-4-methoxymethylaniline | 2.06 g | ClC=1C=C(N)C=C(C1COC)Cl | C8H9Cl2NO
reactant | N,N-diethylaniline | 1.49 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | isopropyl chloroformate | 1.24 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl N-(3,5-dichloro-4-methoxymethylphenyl)carbamate | 2.62 g, yield of 89.6% | ClC=1C=C(C=C(C1COC)Cl)NC(OC(C)C)=O | C12H15Cl2NO3
